US08580841B2
Step C: Preparation of 4-Bromo-1-cyclopentyl-2-(trifluoromethyl)benzene.
To a solution of 1-cyclopentyl-2-(trifluoromethyl)benzene (0.5 g, 2.334 mmol) in acetic acid (2.5 mL) was added bromine (1.202 mL, 23.34 mmol). The mixture was stirred well, added concentrated H2SO4 (2.5 mL), and stirred at 40° C. for 1.5 h. The reaction mixture was poured into ice-water and extracted with CH2Cl2. The CH2Cl2 layer was washed with water, followed by a solution of sodium thiosulfate, then with water. The organic layer was dried over Na2SO4 and the solvent was removed under reduced pressure. The residue was purified by silica gel chromatography to give the title compound (250 mg). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.52-1.75 (m, 4H), 1.78-1.88 (m, 2H), 1.95-2.04 (m, 2H), 3.16-3.26 (m, 1H), 7.57 (d, J=8.4 Hz, 1H), 7.76 (d, J=2 Hz, 1H), 7.81 (dd, J=8.4 Hz, 2 Hz, 1H).

reactant | 1-cyclopentyl-2-(trifluoromethyl)benzene | 2.334 mmol, 0.5 g | C1(CCCC1)C1=C(C=CC=C1)C(F)(F)F | C12H13F3
reactant | bromine | 23.34 mmol, 1.202 mL | BrBr | Br2
reactant | H2SO4 | 2.5 mL | OS(=O)(=O)O | H2O4S
solvent | acetic acid | 2.5 mL | C(C)(=O)O | C2H4O2
product | 4-Bromo-1-cyclopentyl-2-(trifluoromethyl)benzene | 250 mg | BrC1=CC(=C(C=C1)C1CCCC1)C(F)(F)F | C12H12BrF3
